US05278174
2-Cyclohexyl-6-(piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride
The compound was prepared by a method similar to Example 11 from 2',5'-dihydroxyacetophenone, cyclohexanecarbonyl chloride, 1-bromo-6-chlorohexane, and piperidine: mp 164°-165° C.

reactant | 2',5'-dihydroxyacetophenone | OC1=C(C=C(C=C1)O)C(C)=O | C8H8O3
reactant | cyclohexanecarbonyl chloride | C1(CCCCC1)C(=O)Cl | C7H11ClO
reactant | 1-bromo-6-chlorohexane | BrCCCCCCCl | C6H12BrCl
reactant | piperidine | N1CCCCC1 | C5H11N
product | 2-Cyclohexyl-6-(piperidinylhexoxy)-4H-1-benzopyran-4-one hydrochloride | Cl.C1(CCCCC1)C=1OC2=C(C(C1)=O)C=C(C=C2)OCCCCCCN2CCCCC2 | InChI=1S/C26H37NO3.ClH/c28-24-20-26(21-11-5-3-6-12-21)30-25-14-13-22(19-23(24)25)29-18-10-2-1-7-15-27-16-8-4-9-17-27;/h13-14,19-21H,1-12,15-18H2;1H
